US04752629
Diphenyl(p-methoxyphenyl)methyl chloride was reacted with potassium methacrylate using the procedure of Example 1 to produce diphenyl(p-methoxyphenyl)methyl methacrylate (hereinafter abbreviated to MTMA).

reactant | Diphenyl(p-methoxyphenyl)methyl chloride | C1(=CC=CC=C1)C(C1=CC=C(C=C1)OC)(C1=CC=CC=C1)Cl | C20H17ClO
reactant | potassium methacrylate | C(C(=C)C)(=O)[O-].[K+]
product | diphenyl(p-methoxyphenyl)methyl methacrylate | C(C(=C)C)(=O)OC(C1=CC=C(C=C1)OC)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H22O3
